US05473103
Into a flask were placed 100 ml dichlomethane, tartaric acid (0.1 mole), triethylamine (0.4 mole), and stearoyl chloride (0.2 mole). The reaction was left for 24 hours with constant stirring. The reaction mixture was washed with 0.1N HCl solution to yield distearyl tartaric acid.

reactant | tartaric acid | 0.1 mole | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | triethylamine | 0.4 mole | C(C)N(CC)CC | C6H15N
reactant | stearoyl chloride | 0.2 mole | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
product | distearyl tartaric acid | C(CCCCCCCCCCCCCCCCC)C(C(C(=O)O)(O)CCCCCCCCCCCCCCCCCC)(O)C(=O)O | C40H78O6
